US07674804B2
Step 1: 4-(2-Chloro-6-methyl-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester
A solution of 2,4-dichloro-6-methyl-pyrimidine (1.25 g, 7.68 mmol, 1.0 equiv; commercially available), 4-amino-piperidine-1-carboxylic acid tert-butyl ester (2.0 g, 10.0 mmol, 1.3 equiv) and N-ethyl diisopropylamine (3.0 mL, 2.3 g, 17.7 mmol, 2.3 equiv) in acetonitrile (16 mL) was heated by microwave irradiation to 160° C. for 20 min. The reaction mixture was concentrated under reduced pressure and the crude material purified by silica column chromatography using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of heptane/ethyl acetate providing 1.15 g (46%) of the title compound. 1H NMR (400 MHz, DMSO): δ1.24-1.31 (m, 2H), 1.40 (s, 9H), 1.80-1.83 (br d, 2H), 2.18 (s, 3H), 2.90 (br s, 2H), 3.87 (br s, 2H), 3.96 (br s, 1H), 6.23 (br s, 1H), 7.68 (d, J=8.0 Hz, 1H). MS (ISP): 327.4 [M+H]+.

reactant | 2,4-dichloro-6-methyl-pyrimidine | ClC1=NC(=CC(=N1)Cl)C | C5H4Cl2N2
reactant | 4-amino-piperidine-1-carboxylic acid tert-butyl ester | 10.0 mmol, 2.0 g, 1.3 equiv | C(C)(C)(C)OC(=O)N1CCC(CC1)N | C10H20N2O2
reactant | N-ethyl diisopropylamine | 17.7 mmol, 3.0 mL, 2.3 g, 2.3 equiv | C(C)N(C(C)C)C(C)C | C8H19N
solvent | acetonitrile | 16 mL | C(C)#N | C2H3N
product | 4-(2-Chloro-6-methyl-pyrimidin-4-ylamino)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NC1=NC(=NC(=C1)C)Cl | C15H23ClN4O2
